US08227504B2
5-Methoxy-1H-indole-2-carboxylic acid {2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenyl}-amide
The title compound was prepared in a manner substantially the same as Example 1 by coupling 2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenylamine with 5-methoxy-1H-indole-2-carboxylic acid. MS: 447.5 (M+H).

reactant | 2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenylamine | CC1=C(C=CC(=C1)N1CC(CC1)CN1C(CCC1)C)N | C17H27N3
reactant | 5-methoxy-1H-indole-2-carboxylic acid | COC=1C=C2C=C(NC2=CC1)C(=O)O | C10H9NO3
product | 5-Methoxy-1H-indole-2-carboxylic acid {2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenyl}-amide | CC1=C(C=CC(=C1)N1CC(CC1)CN1C(CCC1)C)NC(=O)C=1NC2=CC=C(C=C2C1)OC | C27H34N4O2
